US06384065B1
In 25 ml of methanol was dissolved 5.44 g of methyl 4-[(diethylamino)carbonyl]-benzoate. After adding 25 ml of 1 mol/L aqueous solution of sodium hydroxide at 0-5° C., the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was poured into a mixture of water and ethyl acetate, and the aqueous layer was separated. The aqueous layer was mixed with ethyl acetate, pH was adjusted to 1.5 with 6 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. Diisopropyl ether was added to the residue, and the deposited crystal was collected by filtration to obtain 2.94 g of 4-[(diethylamino)carbonyl]-benzoic acid as a colorless crystalline product.

reactant | methyl 4-[(diethylamino)carbonyl]-benzoate | 5.44 g | C(C)N(C(=O)C1=CC=C(C(=O)OC)C=C1)CC | C13H17NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
product | 4-[(diethylamino)carbonyl]-benzoic acid | 2.94 g | C(C)N(C(=O)C1=CC=C(C(=O)O)C=C1)CC | C12H15NO3
